US07601716B2
4-{1-[2-(Trifluoromethoxy)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid ethyl ester
7-Iodo-1-[2-(trifluoromethoxy)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (699 mg) was reacted with (4-ethoxycarbonylphenyl)boronic acid as in General Procedure 4B to give the title compound as a yellow solid. m.p.=153° C., LCMS: m/z=458.00 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 1.38 (3H, t, J=7.1 Hz), 3.47 (2H, m), 3.64 (2H, m), 4.36 (2H, quartet, J=7.1 Hz), 4.56 (2H, s), 5.22 (1H, bs), 6.73 (1H, s), 7.25 (1H, m), 7.31 (2H, m), 7.37 (1H, d, J=7.3 Hz), 7.42 (2H, d, J=7.8. Hz), 7.75 (1H, s), 8.00 (2H, d, J=8.1 Hz).

reactant | 7-Iodo-1-[2-(trifluoromethoxy)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 699 mg | IC1=CC2=C(NCCN2CC2=C(C=CC=C2)OC(F)(F)F)N=C1 | C15H13F3IN3O
reactant | (4-ethoxycarbonylphenyl)boronic acid | C(C)OC(=O)C1=CC=C(C=C1)B(O)O | C9H11BO4
product | 4-{1-[2-(Trifluoromethoxy)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)C1=CC2=C(NCCN2CC2=C(C=CC=C2)OC(F)(F)F)N=C1)=O | C24H22F3N3O3
